US05206237
1,3-Dihydro-3-[(3-methylphenyl)aminocarbonyl]amino-5-phenyl-2H-1,4-benzodiazepin-2-thione
1,3-Dihydro-3-amino-5-phenyl-2H-1,4-benzodiazepin-2-thione (400 mg, 1.5 mmole) and m-tolylisocyanate (194 μL, 1.5 mmole) were combined in 40 mL of dry tetrahydrofuran at 0° C. The reaction mixture was warmed to room temperature over a 1 hour period and diluted with 20 mL of tetrahydrofuran. The reaction mixture was filtered and concentrated under reduced pressure. The residual material was chromatographed on silica gel (96:4:0.4 chloroform-methanol-concentrated ammonium hydroxide) to give 480 mg of the title compound analytically pure after trituration with ether/petroleum ether:

reactant | 1,3-Dihydro-3-amino-5-phenyl-2H-1,4-benzodiazepin-2-thione | 1.5 mmole, 400 mg | NC1C(NC2=C(C(=N1)C1=CC=CC=C1)C=CC=C2)=S | C15H13N3S
reactant | m-tolylisocyanate | 1.5 mmole, 194 μL | C1(=CC(=CC=C1)N=C=O)C | C8H7NO
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 1,3-Dihydro-3-[(3-methylphenyl)aminocarbonyl]amino-5-phenyl-2H-1,4-benzodiazepin-2-thione | 480 mg | CC=1C=C(C=CC1)NC(=O)NC1C(NC2=C(C(=N1)C1=CC=CC=C1)C=CC=C2)=S | C23H20N4OS
